US04876366
(a) 2-(4-(Dimethyl-tert-butylsilyloxy)phenyl)propionic acid (1a)
Into dry tetrahydrofuran (20 ml) at 0° C. under anhydrous conditions was added slowly with stirring lithium diisopropylamide (2.67 g, 25 mmol) and then a solution of 4-(dimethyl-tert-butylsilyloxy)phenylacetic acid (2.66 g, 10 mmoles) in tetrahydrofuran (10 ml) was added dropwise. The resultant brown solution was stirred at 20°-25° C. for one hour and at 50° C. for 30 minutes. The solution was then cooled to 0° C. and methyl iodide (3.54 g, 25 mmol) was added dropwise. The reaction mixture was stirred at ambient temperature for about 16 hours and then quenched with saturated aqueous ammonium chloride (20 ml) and acidified with 3N hydrochloric acid. The reaction mixture was extracted with diethyl ether (3×100 ml) and the combined extracts washed with saturated aqueous sodium chloride (2×50 ml), dried over magnesium sulfate and the solvent removed in vacuo to afford a tan oil. The oil was chromatographed on a 5×15 cm column of silica gel eluted with 10 percent isopropanol/hexane to yield the desired product as a solid. m.p. 52°-4° C.

reactant | lithium diisopropylamide | 25 mmol, 2.67 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-(dimethyl-tert-butylsilyloxy)phenylacetic acid | 10 mmoles, 2.66 g | C[Si](OC1=CC=C(C=C1)CC(=O)O)(C(C)(C)C)C | C14H22O3Si
reactant | methyl iodide | 25 mmol, 3.54 g | CI | CH3I
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(4-(Dimethyl-tert-butylsilyloxy)phenyl)propionic acid | C[Si](OC1=CC=C(C=C1)C(C(=O)O)C)(C(C)(C)C)C | C15H24O3Si
